US04216326
Reaction of the 2-(4-benzoylphenyl)propyl p-toluenesulfonate described above with 1,4-dioxa-8-azaspiro[4,5]decane in DMF in the presence of anhydrous potassium carbonate affords 8-[2-(4-benzoylphenyl)propyl]-1,4-dioxa-8-azaspiro[4,5]decane.

reactant | 2-(4-benzoylphenyl)propyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)C | C23H22O4S
reactant | 1,4-dioxa-8-azaspiro[4,5]decane | O1CCOC12CCNCC2 | C7H13NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-[2-(4-benzoylphenyl)propyl]-1,4-dioxa-8-azaspiro[4,5]decane | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C(CN1CCC2(OCCO2)CC1)C | C23H27NO3
